US07338791B2
We also performed the shake flask experiments in LB medium, under the same conditions as described for the M9 medium. When p-coumaric acid was used as a precursor, naringenin (0.39 mg/lt) and dihydrokaempferol (1.29 mg/lt) accumulated in the fermentation broth but no kaempferol was produced. When caffeic acid was used as a precursor, eriodictyol accumulated at a lower concentration compared to the M9 medium (7.5 μg/lt), while no dihydroquercetin or quercetin was detected. Finally, when cinnamic acid was used, pinocembrin accumulated at a concentration of 0.245 mg/lt and no dihydroflavonol or flavonol was detected.

reactant | p-coumaric acid | C1=CC(=CC=C1/C=C/C(=O)O)O | C9H8O3
reactant | naringenin | 0.39 mg | C1=CC(=CC=C1[C@@H]2CC(=O)C=3C(=CC(=CC3O2)O)O)O | C15H12O5
reactant | dihydrokaempferol | 1.29 mg | C1=CC(=CC=C1[C@@H]2[C@H](C(=O)C=3C(=CC(=CC3O2)O)O)O)O | C15H12O6
product | kaempferol | C1=CC(=CC=C1C2=C(C(=O)C=3C(=CC(=CC3O2)O)O)O)O | C15H10O6
